US05614633
A mixture of 3 g of 4-cyano-2,2-bisfluoromethyl-6-nitro-2H-1-benzopyran and 20 ml of sulfuric acid was stirred for 36 hours. The reaction mixture was poured into ice water and the separated crystal was collected by filtration. The above-obtained crystal was diluted with ethyl acetate and the organic layer was washed with water and dried. The solvent was distilled off to obtain 3 g of 2,2-bisfluoromethyl-6-nitro-2H-1-benzopyran-4-carboamide represented by the following formula.

reactant | 4-cyano-2,2-bisfluoromethyl-6-nitro-2H-1-benzopyran | 3 g | C(#N)C1=CC(OC2=C1C=C(C=C2)[N+](=O)[O-])(CF)CF | C12H8F2N2O3
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 2,2-bisfluoromethyl-6-nitro-2H-1-benzopyran-4-carboamide | 3 g | FCC1(OC2=C(C(=C1)C(=O)N)C=C(C=C2)[N+](=O)[O-])CF | C12H10F2N2O4
